US07776864B2
Step 2: 4-(7-Methoxy-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde
To a solution of 1.00 g 5-chloro-7-methoxy-6-phenylpyrazolo[1,5-a]pyrimidine and 0.69 g 4-formylphenylboronic acid in 20 ml 1,2-dimethoxyethane are added 7.3 ml of a 10% w/w sodium carbonate solution and 0.14 g dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II). The mixture is heated for 45 min under microwave irradiation to 120° C. This mixture is worked up by diluting with water and extraction with dichloromethane. The organic layers are dried over Na2SO4 and concentrated to yield the crude product, which is purified by chromatography on silica gel (methanol/dichloromethane).

reactant | 5-chloro-7-methoxy-6-phenylpyrazolo[1,5-a]pyrimidine | 1.00 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)OC)N=CC2 | C13H10ClN3O
reactant | 4-formylphenylboronic acid | 0.69 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.14 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(7-Methoxy-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | COC1=C(C(=NC=2N1N=CC2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C20H15N3O2
